US07326699B2
cis-1-{3-[4-Amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-3-tert-butyl-urea is prepared as described in Example 26 using cis-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine and tert-butyl isocyanate (Fluka, Buchs, Switzerland). Analytical HPLC: tR=6.61 min (Grad 2); ES-MS: m/eo=499.0.

reactant | cis-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | NC[C@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C24H25N5O
reactant | tert-butyl isocyanate | C(C)(C)(C)N=C=O | C5H9NO
product | cis-1-{3-[4-Amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-3-tert-butyl-urea | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)CNC(=O)NC(C)(C)C | C29H34N6O2
